US07402608B2
4-{[(2-Methoxycarbonyl-5-phenyl-thiophen-3-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-methyl}-piperidine-1-carboxylic acid benzyl ester (190 mg, 0.32 mmol) was dissolved in MeOH (3.2 mL) and treated with formaldehyde (37% solution, 0.36 mL, 3.2 mmol), AcOH (1 drop) and 10% Pd/C (97 mg) under H2 (30 psi). The reaction was stirred at room temperature for 48 h and the mixture was filtered on celite. The solution was evaporated to a residue that was purified by silica gel column chromatography using CH2Cl2:MeOH as eluent to provide 3-[(4-Methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester as an oil (46.5 mg, 31% yield). 1H NMR (CDCl3, 400 MHz): 7.62 (d, 2H), 7.43 (m, 3H), 7.10 (s, 1H), 3.97 (m, 1 H), 3.85 (s, 3H), 3.20 (m, 3H), 2.48 (s, 3H), 2.42 (m, 1H), 2.10 (m, 1H), 1.85 (m, 3H), 1.70-1.40 (m, 8H), 1.30 (m, 2H), 0.78 (d, 3H), 0.68 (m, 2H).

reactant | 4-{[(2-Methoxycarbonyl-5-phenyl-thiophen-3-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-methyl}-piperidine-1-carboxylic acid benzyl ester | 0.32 mmol, 190 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CN(C(=O)C1CCC(CC1)C)C1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C34H40N2O5S
reactant | formaldehyde | 3.2 mmol, 0.36 mL | C=O | CH2O
solvent | MeOH | 3.2 mL | CO | CH4O
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
catalyst | Pd/C | 97 mg | [Pd] | Pd
product | 3-[(4-Methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-ylmethyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 46.5 mg, 31% yield | COC(=O)C=1SC(=CC1N(CC1CCN(CC1)C)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C27H36N2O3S
